US09163021B2
N-(2-{[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-4-yl)-2-(4-cyanophenyl)acetamide
Prepared according to the method described for Method M (Example 206) using (4-aminopyridin-2-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone (Preparation 27) and 4-cyanophenylacetic acid. The residue was purified using silca gel column chromatography eluting with EtOAc to afford the title compound that was taken directly on to the next step.

reactant | (4-aminopyridin-2-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone | NC1=CC(=NC=C1)C(=O)C1=CN(C2=C1C=NC=C2)C(CO[Si](C)(C)C(C)(C)C)(C)C | C23H32N4O2Si
reactant | 4-cyanophenylacetic acid | C(#N)C1=CC=C(C=C1)CC(=O)O | C9H7NO2
product | N-(2-{[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-4-yl)-2-(4-cyanophenyl)acetamide | [Si](C)(C)(C(C)(C)C)OCC(C)(C)N1C=C(C=2C=NC=CC21)C(=O)C2=NC=CC(=C2)NC(CC2=CC=C(C=C2)C#N)=O | C32H37N5O3Si
